US03963758
a. Ethyl 2-(3-acetyl-4-methoxy-phenyl)-propionate
This compound is prepared by a Friedel-Crafts reaction between ethyl 2-(4-methoxy-phenyl)propionate and acetyl chloride.

reactant | ethyl 2-(4-methoxy-phenyl)propionate | COC1=CC=C(C=C1)C(C(=O)OCC)C | C12H16O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | Ethyl 2-(3-acetyl-4-methoxy-phenyl)-propionate | C(C)(=O)C=1C=C(C=CC1OC)C(C(=O)OCC)C | C14H18O4
